US08048909B2
Ethyl 5-butyl-1H-pyrrole-3-carboxylate
A solution (120 mL) of 1-[(1-isocyanopentyl)sulfonyl]-4-methylbenzene (10.8 g) and ethyl acrylate (4.78 mL) in tetrahydrofuran was added dropwise to a solution (80 mL) of potassium tert-butoxide (5.79 g) in tetrahydrofuran while stirring at room temperature over 1 hr. The mixture was further stirred at the same temperature for 30 min, and the reaction product was diluted with water, and extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=19:1→8:2) to give the title compound as a yellow oil (yield 6.56 g, 78%).

reactant | 1-[(1-isocyanopentyl)sulfonyl]-4-methylbenzene | 120 mL, 10.8 g | [N+](#[C-])C(CCCC)S(=O)(=O)C1=CC=C(C=C1)C | C13H17NO2S
reactant | ethyl acrylate | 4.78 mL | C(C=C)(=O)OCC | C5H8O2
reactant | potassium tert-butoxide | 80 mL, 5.79 g | CC(C)([O-])C.[K+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | Ethyl 5-butyl-1H-pyrrole-3-carboxylate | yield 6.56 g, 78% | C(CCC)C1=CC(=CN1)C(=O)OCC | C11H17NO2
